US04713387
In 10 ml of methylene chloride was dissolved 2.07 g of 3-[p-[3-(2-acetoxyethyl)oxy-1-hydroxy-2-methylpropyl]benzyl]pyridine, and to the resulting solution was added 0.88 ml of thionyl chloride with ice-cooling, after which the resulting mixture was subjected to reaction at the same temperature for one hour. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure. The residue thus obtained was dissolved in 10 ml of N,N-dimethylformamide, and the resulting solution was dropwise added 4.5 ml of DBU, after which the resulting mixture was subjected to stirring at 100° to 110° C. for 2 hours. Subsequently, 5 ml of water was dropped into the mixture, and the mixture was subjected to reaction at 100° C. for 2 hours. The reaction mixture was poured into 80 ml of a saturated aqueous sodium chloride solution, and the resulting mixture was subjected to extraction with two 40-ml portions of ethyl acetate. The extracts were combined, washed with 20 ml of water and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: chloroform] to obtain 850 mg (yield 50.0%) of colorless, oily 3-[p-[3-(2-hydroxyethyl)oxy-2 -methyl-1-propenyl]benzyl]pyridine.

reactant | 3-[p-[3-(2-acetoxyethyl)oxy-1-hydroxy-2-methylpropyl]benzyl]pyridine | 2.07 g | C(C)(=O)OCCOCC(C(O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C20H25NO4
reactant | thionyl chloride | 0.88 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DBU | 4.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium chloride | 80 ml | [Cl-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | 3-[p-[3-(2-hydroxyethyl)oxy-2 -methyl-1-propenyl]benzyl]pyridine | yield 50.0% | OCCOCC(=CC1=CC=C(CC=2C=NC=CC2)C=C1)C | C18H21NO2
